US06133460
A mixture of 7-acetoxy-3,4,8-trimethylcoumarin (6.22 g, 25.3 mmol), N-bromosuccinimide (4.61 g, 25.9 mmol) and benzoyl peroxide (30 mg) were refluxed in carbon tetrachloride for 3.5 hours. The mixture was cooled to room temperature and partitioned between CH2Cl2 and water. The organic layer was separated and washed with water several times, then washed with brine. The organic layer was then dried with anhydrous sodium sulfate and evaporated to give crude product (11.8 g) which was recrystallized twice in toluene to give 7-acetoxy-3-bromomethyl-4,8-dimethylcoumarin, a white crystalline solid (4.86 g, 59%). 1H NMR (CDCl3): δ 7.54 (d, J=8.8 Hz, 1H), 7.05 (d, J=8.8 Hz, 1H), 4.57 (s, 2H), 2.50 (s, 3H), 2.37 (s, 3H), 2.28 (s, 3H).

reactant | 7-acetoxy-3,4,8-trimethylcoumarin | 25.3 mmol, 6.22 g | C(C)(=O)OC1=CC=C2C(=C(C(OC2=C1C)=O)C)C | C14H14O4
reactant | N-bromosuccinimide | 25.9 mmol, 4.61 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 30 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-acetoxy-3-bromomethyl-4,8-dimethylcoumarin | C(C)(=O)OC1=CC=C2C(=C(C(OC2=C1C)=O)CBr)C | C14H13BrO4
